US07456164B2
2-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}-1,3,4-oxadiazole
Triphenylphosphine (0.203 g, 0.78 mmol), iodine (0.198 g, 0.78 mmol) and triethylamine (0.217 mL, 1.56 mmol) were dissolved in dichloromethane (5 mL). The mixture was stirred at room temperature for 10 minutes. N′-formyl-4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbohydrazide (0.145 g, 0.39 mmol) in dichloromethane (5 mL) was added. The mixture was stirred at room temperature for 18 hours. The reaction mixture was diluted with dichloromethane (100 mL) and washed with water (25 mL). The organic was dried over sodium sulphate, filtered and concentrated in vacuo to provide a yellow oil. This was purified using preparative HPLC on Fraction-Lynx® eluting with water:acetonitrile:trifluoroacetic acid (95:5:0.1) to provide the title compound (0.028 g, 20%) as a clear oil. 1H NMR (400 MHz, CDCl3) δ1.78-1.85 (m, 4H), 2.05 (m, 2H), 2.30 (m, 2H), 2.56-2.60 (m, 4H), 2.60-2.70 (m, 4H), 3.59 (m, 2H), 3.90-4.05 (m, 4H), 6.90 (d, 2H), 7.20 (d, 2H), 8.30 (s, 1H). HRMS ESI+ m/z 358.2117 [MH]+.

reactant | Triphenylphosphine | 0.78 mmol, 0.203 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 0.78 mmol, 0.198 g | II | I2
reactant | triethylamine | 1.56 mmol, 0.217 mL | C(C)N(CC)CC | C6H15N
reactant | N′-formyl-4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbohydrazide | 0.39 mmol, 0.145 g | C(=O)NNC(=O)C1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C20H29N3O4
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}-1,3,4-oxadiazole | 0.028 g, 20% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C=1OC=NN1 | C20H27N3O3
